US07141596B2
Step 1. Synthesis of benzyl (2S)-3-(4-amino-3-chlorophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate
Benzyl (2S)-3-(4-aminophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate (20.8 g, 54.7 mmol) and N-chlorosuccinimide (8.04 g, 60.2 mmol) were dissolved in N,N-dimethylformamide (339 mL) and allowed to stir overnight. The reaction was diluted with water, extracted with diethyl ether, washed with saturated aqueous sodium chloride then dried over MgSO4, filtered and the solvent evaporated. The mixture was purified by silica gel chromatography, eluting with 30% ethyl acetate in hexanes to give an orange oil (13.7 g, 62%). 1H NMR (400 MHz, CDCl3): δ 7.34 (m, 5H), 6.95 (s, 1H), 6.72 (d, J=7.8 Hz, 1H), 6.61 (d, J=8.0 Hz, 2H), 5.18 (d, J=12.1 Hz, 1H), 5.10 (d, J=12.3 Hz, 1H), 4.98 (d, J=8.2 Hz, 1H), 4.71 (d, J=5.3 Hz, 1H), 4.54 (m, 1H), 3.97 (m, 2H), 2.96 (m, 2H), 1.43 (s, 9H); LCMS found for C21H25ClN2NaO4 (M+Na)+: m/z=427.0.

reactant | Benzyl (2S)-3-(4-aminophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate | 54.7 mmol, 20.8 g | NC1=CC=C(C=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C21H26N2O4
reactant | N-chlorosuccinimide | 60.2 mmol, 8.04 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 339 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzyl (2S)-3-(4-amino-3-chlorophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate | 13.7 g, 62% | NC1=C(C=C(C=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)Cl | C21H25ClN2O4
